US08536179B2
To a 100 ml round bottom flask was added methyl 6-bromo-3-fluoro-1-isopropyl-1H-indole-4-carboxylate (33.0 mg, 0.105 mmol), Methanol (700 μl), Tetrahydrofuran (THF) (1401 μl) and a magnetic stir bar. To the same was added lithium hydroxide, H2O (13.22 mg, 0.315 mmol) and the mixture was stirred at room temperature. Reaction progress was monitored by LCMS. LCMS (18 h) showed 60% conversion. The reaction was heated to 50° C. in an aluminum heating block with stirring. After complete conversion the solvent was removed in-vacuo and the remaining residue was dissolved with water (1 ml) and 1N HCl was added dropwise (9 drops) until precipitation stopped. The fine pale-yellow solid was collected by vacuum filtration. LCMS and HPLC showed 100% purity and NMR supports the desired structure. The product, 6-bromo-3-fluoro-1-isopropyl-1H-indole-4-carboxylic acid (24 mg, 0.080 mmol, 76% yield), was obtained as a yellow solid. 1H NMR (400 MHz, DMSO-d6) δ 13.07 (br. s., 1H), 8.12 (t, J=1.89 Hz, 1H), 7.77 (d, J=2.27 Hz, 1H), 7.66 (d, J=1.77 Hz, 1H), 4.88 (qd, J=5.31, 6.65 Hz, 1H), 1.40 (d, 6H). MS (ES) [M+H]+ 300.1.

reactant | methyl 6-bromo-3-fluoro-1-isopropyl-1H-indole-4-carboxylate | 0.105 mmol, 33.0 mg | BrC=1C=C(C=2C(=CN(C2C1)C(C)C)F)C(=O)OC | C13H13BrFNO2
reactant | lithium hydroxide | [OH-].[Li+]
reactant | H2O | 0.315 mmol, 13.22 mg | O | H2O
reactant | aluminum | [Al] | Al
solvent | Tetrahydrofuran | 1401 μl | O1CCCC1 | C4H8O
solvent | Methanol | 700 μl | CO | CH4O
product | 6-bromo-3-fluoro-1-isopropyl-1H-indole-4-carboxylic acid | 0.080 mmol, 24 mg, 76% yield | BrC=1C=C(C=2C(=CN(C2C1)C(C)C)F)C(=O)O | C12H11BrFNO2
